US08809267B2
Benzyloxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid (900 mg, 3.1 mmol) was dissolved in EtOH (60 mL) 10% Pd—C (300 mg) and Boc2O (810 mg, 3.7 mmol) were added. The resulting solution was allowed to stir at room temperature under H2 balloon for 24 h. After filtration through celite, and washed with ethanol and water, concentrated to remove all solvents to give the intermediate tert-butoxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid (640 mg, 81%).

reactant | Benzyloxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid | 3.1 mmol, 900 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1CCOCC1 | C15H19NO5
reactant | Boc2O | 3.7 mmol, 810 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 60 mL, 300 mg | CCO | C2H6O
product | tert-butoxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid | 640 mg, 81% | C(C)(C)(C)OC(=O)NC(C(=O)O)C1CCOCC1 | C12H21NO5
